US09163012B2
To a stirred solution of (R)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate (1.10 g, 5.89 mmol) and 2,3,5-trifluoropyridine (0.86 g, 6.48 mmol) in dry THF (20 mL) and dry DMF (4 mL), at rt was added 60% NaH in oil (0.35 g, 8.84 mmol). The mixture was stirred in a 40° C. oil bath overnight, cooled to rt, diluted with ether (175 mL), washed with water (25 mL) and brine (25 mL), and dried over Na2SO4. Removal of the solvent left a dark oil (1.94 g) which was purified by chromatography on a 40-g silica cartridge eluted with a 0-100% EtOAc in hexanes gradient to afford (R)-tert-butyl 3-(3,5-difluoropyridin-2-yloxy)pyrrolidine-1-carboxylate (0.83 g, 47%). LC-MS Method 1 tR=1.85 min, m/z=301.

reactant | (R)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 5.89 mmol, 1.10 g | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | 2,3,5-trifluoropyridine | 6.48 mmol, 0.86 g | FC1=NC=C(C=C1F)F | C5H2F3N
reactant | NaH | [H-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ether | 175 mL | CCOCC | C4H10O
product | (R)-tert-butyl 3-(3,5-difluoropyridin-2-yloxy)pyrrolidine-1-carboxylate | 0.83 g, 47% | FC=1C(=NC=C(C1)F)O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C14H18F2N2O3
